US09238639B2
B) Methyl(4-cyano-6-hydroxy-1-benzothiophen-3-yl)acetate
To a mixture of methyl(4-cyano-6-((triisopropylsilyl)oxy)-1-benzothiophen-3-yl)acetate (1.92 g) and EtOH (30 mL) was added potassium fluoride dihydrate (0.448 g) at room temperature, and the mixture was refluxed for 30 min. The mixture was concentrated under reduced pressure. The residue was poured into water at room temperature and extracted with EtOAc. The organic layer was separated, washed successively with 0.1N HCl and brine, dried over MgSO4 and concentrated in vacuo. The residue was crystallized from EtOAc-hexane to give the title compound (0.935 g).

reactant | methyl(4-cyano-6-((triisopropylsilyl)oxy)-1-benzothiophen-3-yl)acetate | 1.92 g | COC(CC1=CSC2=C1C(=CC(=C2)O[Si](C(C)C)(C(C)C)C(C)C)C#N)=O | C21H29NO3SSi
reactant | potassium fluoride dihydrate | 0.448 g | O.O.[F-].[K+]
solvent | EtOH | 30 mL | CCO | C2H6O
product | Methyl(4-cyano-6-hydroxy-1-benzothiophen-3-yl)acetate | 0.935 g | COC(CC1=CSC2=C1C(=CC(=C2)O)C#N)=O | C12H9NO3S
